US07547691B2
2-{5-Bromo-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(5-bromo-2-chloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 503 (79Br) and 505 (81Br) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
reactant | 2-(5-bromo-2-chloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C14H9BrClN3OS
product | 2-{5-Bromo-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCN2CCN(CC2)C | InChI=1S/C22H27BrN6OS.3ClH/c1-24-21(30)15-5-3-6-18-16(15)13-19(31-18)20-17(23)14-26-22(27-20)25-7-4-8-29-11-9-28(2)10-12-29;;;/h3,5-6,13-14H,4,7-12H2,1-2H3,(H,24,30)(H,25,26,27);3*1H
